US05780500
A mixture of 15.8 g (100 mmol) of 2-chloro-6-fluorobenzaldehyde, 9.4 g (100 mmol) of phenol and 20.7 g (150 mmol) of potassium carbonate in 150 ml of dimethylacetamide is heated under reflux for 4 hours The mixture is allowed to cool, water is added and the mixture is extracted 3× with tert-butyl methyl ether. The organic phases are washed with 2N sodium hydroxide solution and brine, dried over sodium sulfate and concentrated. Bulb tube distillation (175° C., 0.04 mbar) yields 19.46 g (83.64 mmol)=83.6% of 2-chloro-6-phenoxy-benzaldehyde in the form of a yellow oil, 1H-NMR (CDCl3, 200 MHz): 6.75-7.45 (m, 8H); 10.58 (s, 1H).

reactant | 2-chloro-6-fluorobenzaldehyde | 100 mmol, 15.8 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | phenol | 100 mmol, 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylacetamide | 150 ml | CC(=O)N(C)C | C4H9NO
product | 2-chloro-6-phenoxy-benzaldehyde | 83.6% | ClC1=C(C=O)C(=CC=C1)OC1=CC=CC=C1 | C13H9ClO2
